US04532243
A stirred suspension of 4.5 g of 5-ethyl-4-methyl -6-methylthio-2-pyrimidinamine in 28 ml of ether was treated with 5.5 g of 3-bromo-1-phenylpropane-1,2-dione to obtain a yellow solution. After standing two days at room temperature, the crystallized pyrimidinium salt was filtered off, washed with ether and heated for one hour in refluxing ethanol. The solution was evaporated to dryness under reduced pressure and the residue was shaken with a mixture of chloroform and aqueous potassium carbonate. The organic layer was washed, dried over MgSO4 and evaporated to dryness under reduced pressure. Trituration of the residue with ethanol and filtration yielded 4.1 g (53% yield) of [6-ethyl-5-methyl-7-(methylthio)imidazo[1,2-a]pyrimidin-2-yl]phenylmethanone after recrystallization from methanol in the form of a buff solid.

reactant | 5-ethyl-4-methyl -6-methylthio-2-pyrimidinamine | 4.5 g | C(C)C=1C(=NC(=NC1SC)N)C | C8H13N3S
reactant | 3-bromo-1-phenylpropane-1,2-dione | 5.5 g | BrCC(C(=O)C1=CC=CC=C1)=O | C9H7BrO2
solvent | ether | 28 ml | CCOCC | C4H10O
product | [6-ethyl-5-methyl-7-(methylthio)imidazo[1,2-a]pyrimidin-2-yl]phenylmethanone | 4.1 g, 53% yield | C(C)C=1C(=NC=2N(C1C)C=C(N2)C(=O)C2=CC=CC=C2)SC | C17H17N3OS
